US08193228B2
Nitrosonium tetrafluoroborate 45 g (0.38 mol) was added in three portions to a 0° C. solution of 4,4-dimethyl-1-hexene (43 g, 0.38 mol) in acetonitrile (100 mL). After stirring at ambient temperature for 1 h, the reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water, saturated aqueous sodium bicarbonate and brine, dried (magnesium sulfate), filtered and concentrated in vacuo to afford 4-(2,2-dimethylbutyl)-2-methyl-1H-imidazol-1-ol which was used in the subsequent step without further purification.

reactant | Nitrosonium tetrafluoroborate | 0.38 mol, 45 g | F[B-](F)(F)F.N#[O+]
reactant | 4,4-dimethyl-1-hexene | 0.38 mol, 43 g | CC(CC=C)(CC)C | C8H16
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-(2,2-dimethylbutyl)-2-methyl-1H-imidazol-1-ol | CC(CC=1N=C(N(C1)O)C)(CC)C | C10H18N2O
